US08426584B2
A reactor was charged with 1-(2-fluorophenyl)-2-((1-(trityloxy)but-3-en-2-yl)oxy)ethanone (61.2 g, 1.0 equiv), toluene (428 mL) and sodium acetate (16.1 g, 1.5 equiv). Upon complete addition, the reaction mixture was stirred at ambient temperature for 5 minutes. Hydroxylamine hydrochloride (10.0 g, 1.1 Eq) was added and the suspension was heated to 111° C. After stirring for >20 hours at 111° C., the reaction mixture was allowed to cool down to ambient temperature, and the suspension was filtered and the solids rinsed with toluene (245 mL) and then THF (10 volumes) The filtrate was concentrated under reduced pressure (bath temp. <40° C.) and chased with 2-propanol (275 mL). 2-Propanol (428 mL) was added to the solids and the suspension was heated to 83° C. After stirring for 1 hour at 83° C., the mixture was allowed to cool down to ambient temperature. The slurry was cooled to 0° C. over a 1 hour period and stirred at 0° C. for 1 hour. The suspension was filtered and the solids rinsed in two portions with cold 2-propanol (490 mL) to give 6a-(2-fluorophenyl)-4-((trityloxy)methyl)hexahydrofuro[3,4-c]isoxazole (42.3 g) as a solid.

reactant | 1-(2-fluorophenyl)-2-((1-(trityloxy)but-3-en-2-yl)oxy)ethanone | 61.2 g, 1.0 equiv | FC1=C(C=CC=C1)C(COC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C)=O | C31H27FO3
reactant | sodium acetate | 16.1 g, 1.5 equiv | C(C)(=O)[O-].[Na+]
reactant | Hydroxylamine hydrochloride | 10.0 g, 1.1 Eq | Cl.NO
solvent | toluene | 428 mL | C1(=CC=CC=C1)C | C7H8
product | 6a-(2-fluorophenyl)-4-((trityloxy)methyl)hexahydrofuro[3,4-c]isoxazole | 42.3 g | FC1=C(C=CC=C1)C12NOCC1C(OC2)COC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C31H28FNO3
